US08202873B2
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carbaldehyde
Dissolve (1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol (1.41 g, 7.83 mmol) in DCM (25 mL) and dimethylsulfoxide (2.22 mL, 31.3 mmol) and cool to −78° C. Add oxalyl chloride (1.91 mL, 21.9 mmol) dropwise over 15 min. and stir at −78° C. for an additional 1 hr. Add triethylamine (6.55 mL, 47.0 mmol) dropwise and stir another 1 hr. Quench with water (20 mL) and dilute with DCM (50 mL) and warm to room temperature for 1 hr. Separate the organic layer; dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 80:20 hexanes:ethyl acetate), to give the title preparation (0.98 g, 71%). 1H-NMR (400 MHz, CDCl3) δ 9.94 (s, 1H), 7.97 (s, 1H), 3.99 (s, 3H).

reactant | (1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol | 7.83 mmol, 1.41 g | CN1N=C(C(=C1)CO)C(F)(F)F | C6H7F3N2O
reactant | dimethylsulfoxide | 31.3 mmol, 2.22 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 21.9 mmol, 1.91 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 47.0 mmol, 6.55 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carbaldehyde | CN1N=C(C(=C1)C=O)C(F)(F)F | C6H5F3N2O
